US07405299B2
C. Preparation of 4-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-1H-indole
Add trifluoroacetic acid (0.4 mL) to a solution of 4-[2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-indole-1-carboxylic acid tert-butyl ester (34 mg, 0.085 mmol) in methylene chloride (2 mL) at 0° C. Allow the reaction to warm to room temperature slowly over 19 h. Dilute the reaction with methylene chloride and methanol. Add concentrated aqueous ammonium hydroxide (2 mL) and concentrate in vacuo. Purify by flash column chromatography, using the appropriate mixture of methylene chloride, chloroform, methanol, and concentrated aqueous ammonium hydroxide, to provide 11 mg (8% yield over 2 steps) of the title compound as a white solid. MS (APCI) m/e 301 (M+1). 1H NMR (DMSO-d6) δ 10.98 (s, 1H), 8.30 (d, J=4 Hz, 1H), 7.65 (td, J=8, 2 Hz, 1H), 7.46 (d, J=8 Hz, H), 7.26 (d, J=8 Hz, 1H), 7.17-7.13 (m, 2H), 7.00 (t, J=8 Hz, 1H), 6.81 (d, J=7 Hz, 1H), 4.21 (t, J=7 Hz, 2H), 2.85 (dd, J=8, 7 Hz, 2H), 2.64-2.55 (m, 2H). HPLC: >99%, Rt=15.1 min. TLC (SiO2): Rf0.2 (1:1 methylene chloride/[80:18:2 chloroform/methanol/concentrated aqueous ammonium hydroxide]).

reactant | trifluoroacetic acid | 0.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-indole-1-carboxylic acid tert-butyl ester | 0.085 mmol, 34 mg | C(C)(C)(C)OC(=O)N1C=CC2=C(C=CC=C12)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C24H24N4O2
reactant | methanol | CO | CH4O
reactant | ammonium hydroxide | 2 mL | [OH-].[NH4+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-1H-indole | 8% yield | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=C1C=CNC1=CC=C2 | C19H16N4
